US04476056
A solution of 31.5 (0.15 mol) of 2,3,5-trimethyl-1-trifluoromethoxybenzene, 315 ml of acetic acid, 31.5 ml of concentrated hydrochloric acid, 31.5 ml of aqueous formaldehyde and 13 g (0.185 mol) of chloromethyl methyl ether was heated to 85° C. for 72 hours. (Small samples were worked up periodically after 48 hours to optimize the ratio of monochloromethyl product:dichloromethyl product:starting material). The solution was then cooled, poured into 1.5 liters of water and extracted with 3×500 ml of hexane. The hexane extracts were washed with 1 liter of water and 500 ml of saturated NaHCO3 solution, dried (MgSO4), filtered, and concentrated to give 30 g of crude (4-trifluoromethoxy 2,3,6-trimethylphenyl)methyl chloride containing some starting material, 2,3,5-trimethyl-1-trifluoromethoxybenzene, which was removed by distillation at 24°-30° C./0.05 mm. The residue (22 g), crude (4-trifluoromethoxy-2,3,6-trimethylphenyl)methyl chloride, was used directly in the next step.

reactant | 2,3,5-trimethyl-1-trifluoromethoxybenzene | CC1=C(C=C(C=C1C)C)OC(F)(F)F | C10H11F3O
reactant | hydrochloric acid | 31.5 ml | Cl | ClH
reactant | formaldehyde | 31.5 ml | C=O | CH2O
reactant | chloromethyl methyl ether | 0.185 mol, 13 g | COCCl | C2H5ClO
solvent | water | 1.5 liters | O | H2O
solvent | acetic acid | 315 ml | C(C)(=O)O | C2H4O2
product | (4-trifluoromethoxy 2,3,6-trimethylphenyl)methyl chloride | 30 g | FC(OC1=C(C(=C(C(=C1)C)CCl)C)C)(F)F | C11H12ClF3O
